US05399578
N-(2-Methoxyethyl)-N-pentanoyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine
A solution of 1.6 g (4.5 mmol) of crude N-[(2'-cyanobiphenyl-4-yl)methyl]-N-(2methoxyethyl)valeramide and 1.8 g (5.5 mmol) of tri-n-butyltin azide in 15 ml of o-xylene is heated under reflux for 20-24 hours while passing a gentle stream of nitrogen through. After cooling, the solution is diluted with about 30 ml of toluene, treated with 15 ml of 1N aqueous sodium hydroxide solution and intensively stirred for 2 hours. The aqueous phase is separated off and rendered acidic with 16 ml of 1N aqueous hydrochloric acid. The precipitated product is isolated by extraction with ethyl acetate. The crude title compound is thus obtained as an oil which crystallizes from a little ethyl acetate, m.p. 120°-122°.

reactant | N-[(2'-cyanobiphenyl-4-yl)methyl]-N-(2methoxyethyl)valeramide | 4.5 mmol, 1.6 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN(C(CCCC)=O)CCOC | C22H26N2O2
reactant | tri-n-butyltin azide | 5.5 mmol, 1.8 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | sodium hydroxide | 1N, 15 ml | [OH-].[Na+]
solvent | o-xylene | 15 ml | CC=1C=CC=CC1C | C8H10
solvent | toluene | about 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-Methoxyethyl)-N-pentanoyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine | COCCN(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(CCCC)=O | C22H27N5O2
